US06887896B1
1-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-propan-1-one (Compound A-110)
To a solution of 1-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone (Compound A-109, 1.75 g, 4.81 mmol) in THF (33 mL) at −78° C. was added lithium diisopropylamide (1.5 M in cyclohexane, 3.85 mL, 5.78 mmol). The bath was removed and the mixture was stirred for 2.5 h. The mixture was cooled to −78° C. again and methyl iodide was added. The mixture was stirred at room temperature for 16 h, quenched with saturated ammonium chloride, and extracted with diethyl ether. The combined ethereal layers were washed with water, brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude residue was purified by flash chromatography (silica gel, 2% ethyl acetate in hexanes) followed by HPLC (normal phase, 2% ethyl acetate in hexanes) to give the title compound as clear oil.

reactant | 1-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone | 4.81 mmol, 1.75 g | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)C(C)=O)OCC | C19H25BrO2
reactant | lithium diisopropylamide | 5.78 mmol, 1.5 M, 3.85 mL | C(C)(C)[N-]C(C)C.[Li+]
solvent | THF | 33 mL | C1CCOC1 | C4H8O
product | 1-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-propan-1-one | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)C(CC)=O)OCC | C20H27BrO2
